US08314109B2
A suspension of 580 mg of ethyl 6-[hydrazino(imino)methyl]imidazo[1,2-a]pyridine-2-carboxylate in 6 mL of formic acid is heated for 20 hours at 85° C. The reaction mixture is concentrated to less than 20% of its initial volume and diluted with 20 mL of water. Solid sodium carbonate is added at 0-5° C. to obtain a pH of 8-9. The precipitate is filtered off by suction, and then purified by chromatography on silica, eluting with a mixture of dichloromethane and methanol (98/2) to give 320 mg of ethyl 6-(1H-1,2,4-triazol-3-yl)imidazo[1,2-a]pyridine-2-carboxylate.

reactant | ethyl 6-[hydrazino(imino)methyl]imidazo[1,2-a]pyridine-2-carboxylate | 580 mg | N(N)C(C=1C=CC=2N(C1)C=C(N2)C(=O)OCC)=N | C11H13N5O2
reactant | formic acid | 6 mL | C(=O)O | CH2O2
product | ethyl 6-(1H-1,2,4-triazol-3-yl)imidazo[1,2-a]pyridine-2-carboxylate | 320 mg | N1N=C(N=C1)C=1C=CC=2N(C1)C=C(N2)C(=O)OCC | C12H11N5O2
